US04956382
(B) N-Benzyl-N-ethyl-4-methanesulphonamidophenethylamine
4-Methanesulphonamidophenethyl mesylate (10 g, 34 mmole) and N-ethylbenzylamine (10 ml, 67 mmole) were heated at reflux temperature in ethanol (80 ml) for 3 hours. The solvent was evaporated, the residue taken up in 2M hydrochloric acid and washed twice with methylene chloride. The aqueous layer was basified with sodium bicarbonate (to pH~12) and extracted with methylene chloride. The latter organic extract was dried (MgSO4) and evaporated to give an oil which solidified when triturated with diisopropyl ether. The solid was filtered off and discarded and the filtrate was evaporated in vacuo to give the title compound as an oil, yield 4.4 g.

reactant | 4-Methanesulphonamidophenethyl mesylate | 34 mmole, 10 g | S(C)(=O)(=O)OCCC1=CC=C(C=C1)NS(=O)(=O)C | C10H15NO5S2
reactant | N-ethylbenzylamine | 67 mmole, 10 ml | C(C)NCC1=CC=CC=C1 | C9H13N
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | N-Benzyl-N-ethyl-4-methanesulphonamidophenethylamine | C(C1=CC=CC=C1)N(CC)CCC1=CC=C(C=C1)NS(=O)(=O)C | C18H24N2O2S
